US04144338
A. 4-(2-Dimethylaminoethylamino)pyrimidine
A solution of 4-methoxypyrimidine (12.9 g., 0.117 mole) and unsym-dimethylethylene diamine (20.7 g., 0.23 mole) in 40 ml of xylene is heated under reflux for 64 hours. The reaction is concentrated and the oil is distilled at 15 mm of Hg. 4-(2-Dimethylaminoethylamino)pyrimidine, boiling at 164°-169° C., is collected.

reactant | 4-methoxypyrimidine | 0.117 mole, 12.9 g | COC1=NC=NC=C1 | C5H6N2O
reactant | unsym-dimethylethylene diamine | 0.23 mole, 20.7 g | CN(C)CCN | C4H12N2
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(2-Dimethylaminoethylamino)pyrimidine | CN(CCNC1=NC=NC=C1)C | C8H14N4
